US05576334
Methyl 4-aminophenoxyacetate, hydrochloride salt (1.09 g), was dissolved, with warming, in acetonitrile (50 ml) containing diisopropylethylamine (0.86 ml). To this solution at ambient temperature was added gradually with stirring a solution of 4-cyanobenzoyl isocyanate (1 g, preparation described in Weikert, R. J. et al (1991), J. Med. Chem. 34, 1630) in acetonitrile (5 ml). The precipitated solid was crystallised from boiling acetonitrile to give methyl 4-[3-(4-cyanobenzoyl)ureido]phenoxyacetate (930 mg) as an off-white solid: m.p. 214°-217° C.; NMR Spectrum (DMSO-d6) 3.70 (3H, s), 4.77 (2H, s), 6.94 (2H, d), 7.48 (2H, d), 8.02 (2H, d), 8.12 (2H, d), 10.49 (1H, s), 11.19 (1H, s); Mass Spectrum m/Z 354 (M+H)+.

reactant | Methyl 4-aminophenoxyacetate, hydrochloride salt | 1.09 g | Cl.NC1=CC=C(OCC(=O)OC)C=C1
reactant | diisopropylethylamine | 0.86 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-cyanobenzoyl isocyanate | 1 g | C(#N)C1=CC=C(C(=O)N=C=O)C=C1 | C9H4N2O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 4-[3-(4-cyanobenzoyl)ureido]phenoxyacetate | 930 mg | C(#N)C1=CC=C(C(=O)NC(NC2=CC=C(OCC(=O)OC)C=C2)=O)C=C1 | C18H15N3O5
